US04746350
Acetyl chloride (0.3 ml) was added to a cooled, stirred suspension of aluminium chloride (1.5 g) and 1,3-bis (2-propionylcyclohexane-1,3-dione-5-yl) mesitylene (1.0 g) in dichloromethane (30 ml). Stirring was continued as the solution was allowed to come to room temperature and then for a further 15 hours. The solution was poured into dilute hydrochloric acid and the organic layer was separated, dried (Mg SO4) and evaporated to give 5-acetyl-1,3-bis(2-propionyl-cyclohexane-1,3-dione-5-yl)mesitylene (0.7 g, 65%) as a semi-crystalline foam.

reactant | Acetyl chloride | 0.3 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminium chloride | 1.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-bis (2-propionylcyclohexane-1,3-dione-5-yl) mesitylene | 1.0 g | C(CC)(=O)C1C(CC(CC1=O)C1(CC(CC(=C1)C)(C)C1CC(C(C(C1)=O)C(CC)=O)=O)C)=O | C27H36O6
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-acetyl-1,3-bis(2-propionyl-cyclohexane-1,3-dione-5-yl)mesitylene | 0.7 g, 65% | C(C)(=O)C1(CC(CC(C1)(C)C1CC(C(C(C1)=O)C(CC)=O)=O)(C)C1CC(C(C(C1)=O)C(CC)=O)=O)C | C29H40O7
